US05885990
Preparation of 6-cyano-1-(2-ethoxycarbonylvinyl)-2-naphthol:
A solution prepared by dissolving 19.3 g of 1-formyl-6-cyano-2-naphthol and 42.1 g of ethoxycarbonylmethyltriphenylphosphonium bromide in 140 ml of DMF was added dropwise to a solution comprising 13.6 g of anhydrous potassium carbonate and 250 ml of anhydrous methanol, followed by stirring for 3 hours under cooling with ice in a nitrogen stream and 24 hours at room temperature. The precipitate was filtered, and 2.7 liters of water was added to the filtrate, followed by stirring for 2 hours. Then, the precipitate was collected by filtration and washed with 90 ml of methanol to obtain 12.6 g of the desired product.

reactant | 1-formyl-6-cyano-2-naphthol | 19.3 g | C(=O)C1=C(C=CC2=CC(=CC=C12)C#N)O | C12H7NO2
reactant | ethoxycarbonylmethyltriphenylphosphonium bromide | 42.1 g | [Br-].C(C)OC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 250 ml | CO | CH4O
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
product | 6-cyano-1-(2-ethoxycarbonylvinyl)-2-naphthol | 12.6 g | C(#N)C=1C=C2C=CC(=C(C2=CC1)C=CC(=O)OCC)O | C16H13NO3
